US08455483B2
a) tert-Butyl(2-(5-chlorothiophen-2-yl)ethoxy)dimethylsilane
NCS (0.826 g) was added portionwise to a solution of tert-butyldimethyl(2-(thiophen-2-yl)ethoxy)silane [WO 2008096129] (1.5 g) in chloroform (50 mL) and the resulting mixture was heated at reflux for 3 days. The mixture was diluted with DCM (100 mL) and washed with saturated aqueous sodium bicarbonate (2×100 mL) and brine (100 mL), then dried over sodium sulphate, filtered and evaporated. The residue was purified by silica gel chromatography eluting with isohexane to give the subtitled compound as a clear oil. Yield 1.00 g.

reactant | NCS | 0.826 g | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
reactant | tert-butyldimethyl(2-(thiophen-2-yl)ethoxy)silane | 1.5 g | C(C)(C)(C)[Si](OCCC=1SC=CC1)(C)C | C12H22OSSi
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl(2-(5-chlorothiophen-2-yl)ethoxy)dimethylsilane | C(C)(C)(C)[Si](C)(C)OCCC=1SC(=CC1)Cl | C12H21ClOSSi
